US07964613B2
(S)-3-(tert-Butoxycarbonylamino)-1-(4-bromo-5-isoquinolinesulfonyl)pyrrolidine (Intermediate 1a)
A solution of 4-bromo-5-isoquinolinesulfonyl chloride (0.50 g) prepared according to a known method (described in Japanese Patent No. 2763791), and (S)-3-(tert-butoxycarbonylamino)pyrrolidine (0.33 g, Tokyo Kasei Kogyo) in methylene chloride (5 ml) was added with triethylamine (0.68 ml, Wako Pure Chemical Industries) at 0° C., and the mixture was stirred at the same temperature for 30 minutes, and then further stirred at room temperature for 5 hours. The reaction mixture was washed with saturated brine (10 ml), and then dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and then the residue was purified by silica gel chromatography (n-hexane:ethyl acetate=1:1) to obtain the title compound (0.62 g).

reactant | 4-bromo-5-isoquinolinesulfonyl chloride | 0.50 g | BrC1=CN=CC=2C=CC=C(C12)S(=O)(=O)Cl | C9H5BrClNO2S
reactant | (S)-3-(tert-butoxycarbonylamino)pyrrolidine | 0.33 g | C(C)(C)(C)OC(=O)N[C@@H]1CNCC1 | C9H18N2O2
reactant | triethylamine | 0.68 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | (S)-3-(tert-Butoxycarbonylamino)-1-(4-bromo-5-isoquinolinesulfonyl)pyrrolidine | 0.62 g | C(C)(C)(C)OC(=O)N[C@@H]1CN(CC1)S(=O)(=O)C=1C=2C(=CN=CC2C=CC1)Br | C18H22BrN3O4S
